US08445510B2
3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-(3-chloro-1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
A solution of 4-bromo-3-chloro-1-methyl-1H-pyrazole (0.0136 g, 0.0697 mmol), 3-[(S)-1-(2-chloro-3-fluoro-6-methoxy-phenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.020 g, 0.046 mmol), potassium carbonate (0.0193 g, 0.139 mmol) and Pd(PPh3)4 (5.37 mg, 0.00464 mmol) in previously degassed 4:1 dioxane:water (1.0 mL) was evacuated and charged with N2 (2×) and heated under microwave conditions [Biotage, 100° C., 30 min, high absorption]. This was purified by Gilson HPLC. The combined fractions were concentrated in vacuo resulting in the title compound as off-white solid. 1H NMR (400 MHz, CD3OD): δ=1.80 (d, J=7.3 Hz, 3H), 3.60-3.71 (m, 2H), 3.87 (s, 3H), 5.11 (q, J=7.1 Hz, 1H), 6.89 (dd, J=4.2, 9.0 Hz, 1H), 7.06 (d, J=8.8 Hz, 1H), 7.34 (d, J=1.3 Hz, 2H), 7.72-7.77 (m, 2H), 7.80 (s, 2H), 8.20 (d, J=1.8 Hz, 2H). MS (ES+): m/z 419.05, 421.03 (76, 24) [MH+]. HPLC: tR=1.84 min (polar—3 min, TOF)

reactant | 4-bromo-3-chloro-1-methyl-1H-pyrazole | 0.0697 mmol, 0.0136 g | BrC=1C(=NN(C1)C)Cl | C4H4BrClN2
reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxy-phenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.046 mmol, 0.020 g | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | potassium carbonate | 0.139 mmol, 0.0193 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.00464 mmol, 5.37 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-(3-chloro-1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C)Cl | C20H17Cl2FN4O
